US07985769B2
3-Isopropyl-[(4-methyl-cyclohexanecarbonyl)-amino]-5-m-tolyl-thiophene-2-carboxylic acid methyl ester (30 mg, 0.073 mmol) was taken in a mixture of THF:MeOH:H2O (3:2:1, 3 mL) and then added 1N aqueous solution of LiOH.H2O (0.44 mL, 0.438 mmol). The reaction mixture was stirred at room temperature for 12 h. Solvents were removed and the residue was partitioned between water and ethyl acetate. The aqueous layer was acidified using 10% KHSO4 solution. The organic layer was separated, dried (Na2SO4)— and concentrated. The residue was purified by preparative TLC using chloroform:methanol:acetic acid (9:1:0.1) to obtain 3-Isopropyl-[(4-methyl-cyclohexanecarbonyl)-amino]-5-m-tolyl-thiophene-2-carboxylic acid (15 mg, 52%) as a white solid. 1H NMR (CDCl3, 400 MHz): (s, 2H), 7.38 (t, 1H), 7.24 (m, 1H), 7.08 (s, 1H), 5.01 (s, 1H), 2.42 (s, 3H), 2.10-0.62 (m, 20H). ESI− (M-H): 398.

reactant | 3-Isopropyl-[(4-methyl-cyclohexanecarbonyl)-amino]-5-m-tolyl-thiophene-2-carboxylic acid methyl ester | 0.073 mmol, 30 mg | COC(=O)C=1SC(=C(C1C(C)C)NC(=O)C1CCC(CC1)C)C=1C=C(C=CC1)C | C24H31NO3S
reactant | LiOH.H2O | 0.438 mmol, 0.44 mL | O[Li].O
solvent | THF MeOH H2O | 3 mL | C1CCOC1.CO.O
product | 3-Isopropyl-[(4-methyl-cyclohexanecarbonyl)-amino]-5-m-tolyl-thiophene-2-carboxylic acid | 15 mg, 52% | C(C)(C)C1=C(SC(=C1NC(=O)C1CCC(CC1)C)C=1C=C(C=CC1)C)C(=O)O | C23H29NO3S
